US04689349
5-Ethoxyheptanol
A solution of tetrahydrofuran (2000 ml) containing lithium aluminum hydride (46 g, 1.21 moles) is cooled in a -60° C. dry ice/ethanol bath. Ethyl 5-ethoxyheptanoate (302 g, 1.49 moles) is diluted in tetrahydrofuran (300 ml) and added dropwise to the stirring reaction. After the addition is complete the reaction is warmed to room temperature and stirred an additional hour. The solution is again cooled in a -78° C. dry ice/ethanol bath and the excess hydride is destroyed by adding dropwise the following: water (46 ml), 15% sodium hydroxide solution (46 ml), and water (136 ml). The reaction is filtered and the solids washed several times with tetrahydrofuran (3×500 ml). The volume of the filtrate is reduced under vacuum and the residue dried over anhydrous magnesium sulfate. The remaining solvent is then removed leaving a clear, colorless oil suitably pure for the next reaction (238 g, 1.49 moles).

reactant | lithium aluminum hydride | 1.21 moles, 46 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Ethyl 5-ethoxyheptanoate | 1.49 moles, 302 g | C(C)OC(CCCC(=O)OCC)CC | C11H22O3
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2000 ml | O1CCCC1 | C4H8O
product | 5-Ethoxyheptanol | C(C)OC(CCCCO)CC | C9H20O2
